US07429660B2
6-Bromo-thianthren-2-ylamine
Zn dust (144.1 g, 2.2 mol) was added to a stirred solution of 1-bromo-7-nitro-thianthrene (125 g, 367.4 mmol) in glacial acetic acid (500 ml at 0° C. (ice bath). After one hour the ice bath was removed and the solution was left to react overnight at room temperature. The mixture was filtered through a pad of Celite and washed with copious amount of dichloromethane and the filtrate was evaporated in vacuo. Water was added (500 ml) to the residue and the pH was adjusted to pH 8 by addition of concentrated ammonia. The solid formed was filtered and dried in a vacuum desiccator to give the title compound (118.5 g) and was used without any further purification. m/z (LC-MS, ESP), RT=4.92, (M++1)=310-312 (1:1, bromine isotope ratio present)

reactant | 1-bromo-7-nitro-thianthrene | 367.4 mmol, 125 g | BrC1=CC=CC=2SC3=CC(=CC=C3SC12)[N+](=O)[O-] | C12H6BrNO2S2
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Zn | 2.2 mol, 144.1 g | [Zn] | Zn
product | 6-Bromo-thianthren-2-ylamine | 118.5 g | BrC1=C2SC=3C=CC(=CC3SC2=CC=C1)N | C12H8BrNS2
